US07700625B2
A suspension of dimethyl 3-methoxyphthalate (69.45 g, 0.31 mol) [prepared as per J. Chem. Soc., Perkin Trans. 1, 1989, 391] in water (300 ml) was treated with potassium hydroxide (43.7 g, 0.78 mol) and the mixture was stirred and held at reflux for 4 hours. Upon cooling to room temperature the methanol liberated during the course of the reaction was removed in vacuo, the mixture acidified to pH 2 or below by the addition of 5M hydrochloric acid and evaporated gently in vacuo to induce crystallization. The solid material was filtered off, washed with a little ice cooled water, sucked dry under reduced pressure and dried in a vacuum oven at 50° C. overnight to afford 3-methoxyphthalic acid (51.0 g, 84%) as a colourless solid. 1H NMR (DMSO-d6) 13.05 (2H, br s), 7.48 (2H, m), 7.33 (1H, m), 3.82 (3H, s). MS: [M+H]+ 197.

reactant | dimethyl 3-methoxyphthalate | 0.31 mol, 69.45 g | COC1=C(C(C(=O)OC)=CC=C1)C(=O)OC | C11H12O5
reactant | potassium hydroxide | 0.78 mol, 43.7 g | [OH-].[K+]
reactant | methanol | CO | CH4O
solvent | water | 300 ml | O | H2O
product | 3-methoxyphthalic acid | 51.0 g, 84% | COC1=C(C(C(=O)O)=CC=C1)C(=O)O | C9H8O5
